US06107458
To a solution of 4-octylaniline (5 ml) in a mixture of pyridine (12.5 ml) and chloroform (40 ml) was added phenyl chloroformate (2.95 ml) and stirred for 1.5 hours at ambient temperature. The reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 4-Octyl-N-phenoxycarbonylaniline (4.51 g)

reactant | 4-octylaniline | 5 ml | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
reactant | phenyl chloroformate | 2.95 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 12.5 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Octyl-N-phenoxycarbonylaniline | 4.51 g | C(CCCCCCC)C1=CC=C(NC(=O)OC2=CC=CC=C2)C=C1 | C21H27NO2
